US03952001
A mixture of 6.9 g. 3-diallylsulphamoyl-1,2,4-triazole, 4.5 g. diethylcarbamoyl chloride, 6 ml. triethylamine and 25 ml. dry tetrahydrofuran was refluxed under anhydrous conditions for 1.5 hours. The cooled reaction mixture was filtered to remove triethylamine hydrochloride and the filtrate was evaporated to remove solvent. The solid residue was recrystallized from petroleum ether, b.p. 60° - 80°C., to give 1-diethylcarbamoyl-3-diallylsulphamoyl-1,2,4-triazole, m.p. 49° - 51°C. Elemental analysis satisfactory.

reactant | 3-diallylsulphamoyl-1,2,4-triazole | C(C=C)N(S(=O)(=O)C1=NNC=N1)CC=C | C8H12N4O2S
reactant | diethylcarbamoyl chloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-diethylcarbamoyl-3-diallylsulphamoyl-1,2,4-triazole | C(C)N(C(=O)N1N=C(N=C1)S(N(CC=C)CC=C)(=O)=O)CC | C13H21N5O3S
